US06350751B1
4-{6-Ethoxy-5-[3-ethyl-6,7-dihydro-7-oxo-2-(2-pyridylmethyl)-2H-pyrazolo [4,3-d]pyrimidin-5-yl]-3-pyridylsulfonyl}-1-ethylpiperazine
Potassium ethoxide solution (86 g, 0.25 mol, 24% w/w in ethanol) was charge to the vessel. To this was added ethanol (235 mL). Ethyl acetate (10.8 g) was added to reaction mixture at ambient. N-[3-carbamoyl-5-ethyl-1-(2-pyridylmethyl)-1H-pyrazol4-yl]-2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl) nicotinamide (70 g, 0.122 mol) was added in one portion to the solvent mixture and the reaction was stirred at ambient. The reaction mixture was warmed in a pressurised vessel to a temperature of 120° C., producing an internal pressure of approximately 50-60 p.s.i., the pressure was then made up to 80 p.s.i. by applying a nitrogen pressure and the reaction was stirred for 8 hours. The reaction was cooled after 8 hours and ethanol is then reduced under atmospheric distillation to a volume of about 720 ml (3 ml/g). Ethyl Acetate (840 ml) was added to the ethanol solution and then reduced under atmospheric distillation to a volume of 1920 ml (8 ml/g). Dilute aqueous hydrochloric acid was added to adjust the pH of the reaction mixture from about pH=13 to pH=8. This was a slow addition over 30 min showing no exotherm. The mixture was stirred for 5 minutes, warmed to 50° C. and the phases were separated. The aqueous was run off to the effluent. Water (140 mL) was added to ethyl acetate layer (remaining in the vessel), stirred, warmed to 50° C. and the phases were separated. The aqueous was run off to the effluent. The ethyl acetate phase was slowly cooled from 50° C. to 0-5° C. over two hours, and stirred for a further hour, filtered of the solid, wash with ethyl acetate (3) 0-5° C. and dried under vacuum at 60° C. to afford the title compound (83%) as a white solid. Mpt 178-180° C. (CDCl3): 1.02 (3H, t), 1.30, 3H, t), 1.58 (3H, t), 2.21 (2H, q), 2.55 (4H, m), 3.04 (2H, q), 3.10 (4m), 4.75 (2H, q), 5.69 (2H, s), 7.10 (1H, d), 7.22 (1H, m), 7.63 (1H, m), 8.57 (1H, d), 8.63 (1H, d), 9.02 (1H, d). m/z (Found:553 [M+H]+, 100%. C26H32N8O4S requires 553.66).

reactant | Potassium ethoxide | 0.25 mol, 86 g | [O-]CC.[K+]
reactant | ethanol | 235 mL | C(C)O | C2H6O
reactant | N-[3-carbamoyl-5-ethyl-1-(2-pyridylmethyl)-1H-pyrazol4-yl]-2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl) nicotinamide | 0.122 mol, 70 g | C(N)(=O)C1=NN(C(=C1NC(C1=C(N=CC(=C1)S(=O)(=O)N1CCN(CC1)CC)OCC)=O)CC)CC1=NC=CC=C1 | C26H34N8O5S
solvent | Ethyl acetate | 10.8 g | C(C)(=O)OCC | C4H8O2
product | 4-{6-Ethoxy-5-[3-ethyl-6,7-dihydro-7-oxo-2-(2-pyridylmethyl)-2H-pyrazolo [4,3-d]pyrimidin-5-yl]-3-pyridylsulfonyl}-1-ethylpiperazine | 83% | C(C)OC1=C(C=C(C=N1)S(=O)(=O)N1CCN(CC1)CC)C=1NC(C=2C(N1)=C(N(N2)CC2=NC=CC=C2)CC)=O | C26H32N8O4S
